US05472964
Step 2: 2,3-Dichloro-5-methylfuro[3,2-b]pyridine
To a solution of 2-trimethylsilyl-5-methylfurano[3,2-b]pyridine (1.05 g, 5.15 mmol) in CH2Cl2 (16 mL) at 0° C. was added trichloroisocyanuric acid (1.2 g, 5.15 mmol). The mixture was stirred at 0° C. for 30 rain and then at r.t. for 20 hr. A solution of 30% EtOAc in hexane was added. The resulting mixture was filtered through a short bed of silica gel and eluted with more 30% EtOAc in hexane. Evaporation of the filtrate gave 1.0 g (96%) of the title compound.

reactant | 2-trimethylsilyl-5-methylfurano[3,2-b]pyridine | 5.15 mmol, 1.05 g | C[Si](C1=CC2=NC(=CC=C2O1)C)(C)C | C11H15NOSi
reactant | trichloroisocyanuric acid | 5.15 mmol, 1.2 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | CH2Cl2 | 16 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 2,3-Dichloro-5-methylfuro[3,2-b]pyridine | 1.0 g, 96% | ClC1=C(C2=NC(=CC=C2O1)C)Cl | C8H5Cl2NO
